US07576092B2
Step E: 8-Chloro-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione.
To a suspension of 3-amino-8-chloro-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione (2.9 g, 11.6 mmol) in 1:1 mixture of acetic acid/H2O (200 mL) was added NaNO2 (2.5 g, 36.0 mmol). The reaction mixture was heated at 45-50° C. until the evolution of brown fumes ceased (2 h). The product was collected by filtration to afford 2.45 g (89%) of the desired product.

reactant | 3-amino-8-chloro-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | 11.6 mmol, 2.9 g | NN1C(NC2=C(C1=O)OC1=C2C=C(C=C1)Cl)=O | C10H6ClN3O3
reactant | NaNO2 | 36.0 mmol, 2.5 g | N(=O)[O-].[Na+]
solvent | acetic acid H2O | 200 mL | C(C)(=O)O.O
product | 8-Chloro-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | 2.45 g, 89% | ClC=1C=CC2=C(C=3NC(NC(C3O2)=O)=O)C1 | C10H5ClN2O3
